US08877805B2
Step 1. Synthesis of 5-(1-hydroxy-2-methylprop-2-enyl)furan-2-carboxylic acid benzyl ester
5-Formyl-2-furancarboxylic acid benzyl ester (300 mg, 1.30 mmol) was dissolved in tetrahydrofuran (12 mL), 2-propenylmagnesium bromide (0.5 mol/L tetrahydrofuran solution, 2.6 mL, 1.3 mmol) was added at −78° C., and the mixture was stirred for 15 minutes. 1N Hydrochloric acid was added to the reaction mixture, the mixture was heated to room temperature and extracted with ethyl acetate. The extract was washed with saturated brine, dried over anhydrous sodium sulfate, and concentrated under reduced pressure. The obtained residue was purified by silica gel column chromatography (hexane/ethyl acetate=70/30) to give the title compound (332 mg, 1.23 mmol, 94%).

reactant | 5-Formyl-2-furancarboxylic acid benzyl ester | 1.30 mmol, 300 mg | C(C1=CC=CC=C1)OC(=O)C=1OC(=CC1)C=O | C13H10O4
reactant | 2-propenylmagnesium bromide | 1.3 mmol, 0.5 mol/L, 2.6 mL | C(C=C)[Mg]Br
reactant | Hydrochloric acid | 1N | Cl | ClH
solvent | tetrahydrofuran | 12 mL | O1CCCC1 | C4H8O
product | 5-(1-hydroxy-2-methylprop-2-enyl)furan-2-carboxylic acid benzyl ester | 1.23 mmol, 332 mg, 94% | C(C1=CC=CC=C1)OC(=O)C=1OC(=CC1)C(C(=C)C)O | C16H16O4
